Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Morphine / Hydrocodone / Betadine
 
Attending: ___.
 
Chief Complaint:
Contractions
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ G1 who presented at ___ with increased 
pressure and contractions throughout the day, feels like 
"something in the vagina". 
Denies LOF or VB, +AFM.  Has felt well overall.  No F/C, other 
abd pain or injury, urinary or bowel sx.

 
Past Medical History:
PNC: ___ ___
Rh neg/Ab neg/RPRNR/RI/HBsAg neg/HIV neg
s/p rhogam at 6w for bleeding
___: EFW 846 35%
nl GLT = 111
issues:
*) ___ syndrome of likely Type I based on testing and
discussion with her geneticist at ___. Risks include uterine
rupture, hemorrhage, cervical insufficiency, and poor
wound healing from both cesarean and vaginal delivery. 
 - Plan for attempt at vaginal route of delivery as likely less
risk for tissue damage/healing
 - Will take precautions & monitoring for post-partum hemorrhage
 - Serial cervical lengths have been stable. Rpt in 4 wks (last)
 - aortic US ___ normal
*) Chronic hypertension - normal baseline 24hr urine. Has
had EKG and has seen Cardiology, and she is now on: 
 - Labetalol 600mg BID
*) Pyelonephritis in early pregnancy - keflex prophylaxis.
*) Hypothyroidism - euthyroid off meds currently, last TSH
*) Questionable history of PE - per pt, was placed on
anticoagulation (Heparin and then Lovenox) for 1 month, but
we confirmed with PCP that there was no PE. now off
anticoagulants
*) Microcytic Anemia - on 60mg of elemental iron daily. 
*) Poor maternal weight gain - 1# gain in OMR

Ob hx: G1
Gyn hx: denies known fibroids or abnl Pap
PMHx: as above: Ehlers-Danlos, chronic HTN, h/o pyelo,
hypothyroidism. also IBS/GERD, and depression/anxiety

PSH: Multiple orthopedic surgeries 

 
Social History:
Married, feels safe at home. Denies T/E/D 

 
Physical Exam:
Exam on admission:
144/92 HR 99, afebrile 
NAD, appears well
RRR
CTAB
abd soft, NT, gravid, s=d
extremities NT/NE
SSE: no fluid or abnl discharge
SVE: cervix long, internal os 1.5cm, soft -> unchanged after 4
hours

EFM: 140/+accels/no decels/mod var
toco:  q1-3 min on presentation-> spacing somewhat now

TAUS: vertex, ___, fluid normal, EFW 950g
TVUS: CL 2.9 cm, no funneling or dynamic changes

 
Pertinent Results:
___ 10:46PM BLOOD WBC-14.5* RBC-4.06* Hgb-10.8* Hct-32.6* 
MCV-80* MCH-26.6* MCHC-33.2 RDW-13.9 Plt ___
___ 10:46PM BLOOD Neuts-75.2* Lymphs-17.9* Monos-4.7 
Eos-1.8 Baso-0.4
___ 10:46PM BLOOD Plt ___
___ 10:46PM BLOOD ___ PTT-31.7 ___
___ 10:46PM BLOOD ___
___ 10:46PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:46PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG marijua-NEG
___ 09:56PM OTHER BODY FLUID FetalFN-POSITIVE

___ 10:46 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 9:55 pm SWAB      Source: Vaginal. 

                            **FINAL REPORT ___

   SMEAR FOR BACTERIAL VAGINOSIS (Final ___: 
      GRAM STAIN NEGATIVE FOR BACTERIAL VAGINOSIS. 

   YEAST VAGINITIS CULTURE (Final ___:    NEGATIVE FOR 
YEAST. 

___ 9:55 pm ANORECTAL/VAGINAL CULTURE
      Source: Anorectal/Vaginal. 

                            **FINAL REPORT ___

   R/O GROUP B BETA STREP (Final ___: 
      NEGATIVE FOR GROUP B BETA STREP. 

___ 9:56 pm SWAB      Source: Cervical. 

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Pending): 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Pending): 

 
Brief Hospital Course:
___ yo G1 at 27w2d with cHTN and Ehlers-Danlos, admitted with 
preterm contractions and concern for preterm labor. She had no 
evidence of infection or abruptionon exam. Her SVE was 1.5/L/P x 
2 with a CL of 2.9. She was noted to have CTX q ___ minutes and 
a positive FFN.  She was stated on a course of betamethasone and 
givenindocin with a plan to continue until beta complete. 

She was given Rhogam due to her being close to 28 weeks and 
having reported spotting. Her labetalol and keflex prophlaxis 
for UTI suppresion in pregnancy were continued.  

By the morning of ___, she contractions were much improved. She 
had fetal testing at the ___ which was reasuring with an ___ 
BPP and CL of 34mm and her SVE was unchanged. She was therefore 
discharged to home with precautions. 

 
Medications on Admission:
 PNV, Labetalol 600mg PO BID, keflex ppx

 
Discharge Medications:
1. Labetalol 600 mg PO BID 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Cephalexin 250 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Concern for pre-term labor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, you were admitted for due to concern for 
pre-term labor. You were given betamethasone which helps babies 
who are born early, in case you delivered pre-term. You were 
monitored in the hospital and your cervical exam did not change, 
which is reassuring. 

 
Followup Instructions:
___